US09169259B2
N-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-yl)-6-phenylimidazo[1,2-b]pyridazin-8-amine
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (180 mg, 0.55 mmol), phenylboronic acid (102 mg, 0.83 mmol), Pd2(dba)3 (33 mg, 0.056 mmol), X-phos (105 mg, 0.22 mmol) and K2CO3 (226 mg, 1.63 mmol) in dioxane (10 mL) and water (1 mL) was heated to 100° C. with stirring for 4 h under N2. The reaction mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=180:1) to give crude product. This was further purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 40% acetonitrile/60% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give a light yellow solid. This was dissolved in methanol and three drops of concentrated HCl added. The mixture was stirred for 5 minutes, then concentrated in vacuo to give a light yellow solid (80 mg, 40%) as an HCl salt. 1H NMR (300 MHz, CD3OD): δ 8.87 (s, 1H), 8.37 (d, 1H, J=2.4 Hz), 8.10 (d, 1H, J=1.8 Hz), 8.01-7.98 (m, 2H), 7.60-7.53 (m, 4 h), 6.45 (d, 1H, J=7.8 Hz), 6.30 (d, 1H, J=8.4 Hz), 4.28-4.24 (m, 1H), 3.67-3.47 (m, 2H), 2.20-1.80 (m, 4 h), 1.20 (d, 1H, J=6.3 Hz). LC-MS: [M+H]+, 371, tR=1.97 min, HPLC: 97.57% at 214 nm, 99.43% at 254 nm, tR=7.473 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.55 mmol, 180 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | phenylboronic acid | 0.83 mmol, 102 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.22 mmol, 105 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 1.63 mmol, 226 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | methanol | CO | CH4O
catalyst | HCl | three drops | Cl | ClH
catalyst | Pd2(dba)3 | 0.056 mmol, 33 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-yl)-6-phenylimidazo[1,2-b]pyridazin-8-amine | 80 mg, 40% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=CC=C1)C=CN2 | C22H22N6
